US04946857
In 300 ml of hexane were dissolved 50 g of 3,7,11-trimethyl-1-dodecen-3-ol and 0.87 g of pyridine, and 30.8 g of phosphorus tribromide was added dropwise to the solution at 0° to -10° C. After 2 hours of stirring at 0° C., the reaction mixture was poured into water and extracted with hexane. The hexane layer was successively washed with aqueous sodium hydrogen carbonate and aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent was distilled off to give 62.5 g of crude 1-bromo-3,7,11-trimethyl-2-dodecene. To a suspension of 14.2 g of zinc in 26 ml of acetic acid was added dropwise 62.5 g of the crude 1-bromo-3,7,11-trimethyl- 2-dodecene and the mixture was stirred at room temperature for 1 hour. Thereafter, the zinc was filtered off and the filtrate was poured into water and extracted with hexane. The hexane layer was washed with aqueous sodium hydrogen carbonate and aqueous sodium chloride in that order and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was further distilled under reduced pressure to give 10.6 g (yield 25%) of 3,7,11-trimethyl-1-dodecene. The physical constants of the compound are as follows.

reactant | 1-bromo-3,7,11-trimethyl- 2-dodecene | 62.5 g | BrCC=C(CCCC(CCCC(C)C)C)C | C15H29Br
solvent | acetic acid | 26 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 14.2 g | [Zn] | Zn
product | 3,7,11-trimethyl-1-dodecene | 10.6 g, yield 25% | CC(C=C)CCCC(CCCC(C)C)C | C15H30
